US06335445B1
3.1) 4-acetoxy-3,5-dimethoxy-benzoic Acid
In a 100 ml flask, under a nitrogen atmosphere, 1.50 g (7.57 mmoles) of syringic acid is dissolved in 15 ml of dry pyridine. 0.86 ml (9.08 mmoles) of acetic anhydride is added dropwise and the mixture is agitated at ambient temperature for 18 hours. The pyridine is evaporated off under reduced pressure, the residue is taken up in 25 ml of dichloromethane and washed with 10 ml of a molar solution of HCl then with 2×10 ml of water. The organic phase is dried over sodium sulphate, filtered and evaporated under vacuum. 1.72 g (95%) of a beige powder is obtained. Melting point: 181-183° C.

reactant | syringic acid | 7.57 mmoles, 1.50 g | C(C1=CC(OC)=C(O)C(OC)=C1)(=O)O | C9H10O5
reactant | acetic anhydride | 9.08 mmoles, 0.86 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | 4-acetoxy-3,5-dimethoxy-benzoic Acid | 1.72 g, 95% | C(C)(=O)OC1=C(C=C(C(=O)O)C=C1OC)OC | C11H12O6
